US04151303
In a manner analogous to that described in Example 4, from 2-(3-methoxyphenoxy)-2-methylpropionic acid and ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate, in the presence of triethylamine and ethyl chloroformate, there is obtained, in a yield of 84% of theory, ethyl 2-{{4-{2-[2-(3-methoxyphenoxy)-2-methylpropionylamino]-ethyl}-phenoxy}}-2-methylpropionate which, after recrystallization from cyclohexane and ethyl acetate, melts at 68°-69° C. and from this 2-{{4-{2-[2-(3-methoxyphenoxy)-2-methylpropionylamino]-ethyl}-phenoxy}}-2-methylpropionic acid in a yield of 64% of theory which, after recrystallization from cyclohexane and ethyl acetate, melts at 80°-81° C.

reactant | 2-(3-methoxyphenoxy)-2-methylpropionic acid | COC=1C=C(OC(C(=O)O)(C)C)C=CC1 | C11H14O4
reactant | ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate | NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H21NO3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl 2-{{4-{2-[2-(3-methoxyphenoxy)-2-methylpropionylamino]-ethyl}-phenoxy}}-2-methylpropionate | yield of 84% | COC=1C=C(OC(C(=O)NCCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)(C)C)C=CC1 | C25H33NO6
